US06638965B2
4-(tert.butoxycarbonylaminomethyl)-aniline
20 g (164 mmol) of 4-aminobenzylamine and 20.2 g (210 mmol) of triethylamine are dissolved in 100 ml of dioxane and 50 ml of water. 35.8 g (165 mmol) of di-tert.butyl-dicarbonate dissolved in 60 ml of dioxane are added to this solution while cooling with ice and the resulting mixture is stirred for 18 hours at ambient temperature. Then the solvent is distilled off in vacuo, the residue is distributed in ethyl acetate/water. The combined organic extracts are freed from solvent in vacuo. The crude product is heated in 200 ml of petroleum ether, cooled slowly with vigorous stirring and the crystalline product is removed by suction filtering.

reactant | 4-aminobenzylamine | 164 mmol, 20 g | NC1=CC=C(CN)C=C1 | C7H10N2
reactant | triethylamine | 210 mmol, 20.2 g | C(C)N(CC)CC | C6H15N
reactant | di-tert.butyl-dicarbonate | 165 mmol, 35.8 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
product | 4-(tert.butoxycarbonylaminomethyl)-aniline | C(C)(C)(C)OC(=O)NCC1=CC=C(N)C=C1 | C12H18N2O2
